US07625938B2
4-{[5-(1,3-benzothiazol-2-yl)-3-(3,5-dichlorophenyl)-1H-pyrazol-1-yl]methyl}-benzoic acid
To a mixture of 3-(3,5-dichlorophenyl)-1-[4-(methoxycarbonyl)benzyl]-1H-pyrazole-5-carboxylic acid (20 mg, 0.049 mmol), and PyBOP (36 mg, 0.069 mmol) in 1 mL of N,N-dimethylformamide was added N,N-diisopropylethylamine (15 μL, 0.088 mmol). After stirring at ambient temperature for 10 min, 2-aminothiophenol (7 μL, 0.059 mmol) was added, and stirring continued for 1 h. The resultant mixture was added drop-wise to 10 mL of glacial acetic acid containing dithiothreitol (15 mg, 0.097 mmol), and the mixture heated at 110° C. for 1 h. The acetic acid was removed in vacuo, the residue suspended in ethyl acetate and the organic layer washed successively with two portions of aqueous saturated sodium bicarbonate solution and one portion of brine. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and the residue suspended in 2 mL of dioxane and 1 mL of water. Lithium hydroxide monohydrate (42 mg, 1.02 mmol) was added and the mixture heated at 50° C. for 2 h. The mixture was diluted with ethyl acetate and water and acidified with 1N hydrochloric acid solution. The organic layer was washed with one portion of brine, dried over magnesium sulfate, and concentrated in vacuo to provide the title compound which was used without purification. HPLC/MS: m/z=479.91 (M+1).

reactant | 3-(3,5-dichlorophenyl)-1-[4-(methoxycarbonyl)benzyl]-1H-pyrazole-5-carboxylic acid | 0.049 mmol, 20 mg | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)C(=O)O)CC1=CC=C(C=C1)C(=O)OC | C19H14Cl2N2O4
reactant | PyBOP | 0.069 mmol, 36 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.088 mmol, 15 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminothiophenol | 0.059 mmol, 7 μL | NC1=C(C=CC=C1)S | C6H7NS
reactant | dithiothreitol | 0.097 mmol, 15 mg | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | Lithium hydroxide monohydrate | 1.02 mmol, 42 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-{[5-(1,3-benzothiazol-2-yl)-3-(3,5-dichlorophenyl)-1H-pyrazol-1-yl]methyl}-benzoic acid | S1C(=NC2=C1C=CC=C2)C2=CC(=NN2CC2=CC=C(C(=O)O)C=C2)C2=CC(=CC(=C2)Cl)Cl | C24H15Cl2N3O2S
